US08937071B2
To a mixture of hydroxylamine, hydrochloride (3.10 g, 44.7 mmol) in H2O (25 mL) cooled to 0° C. was added NaHCO3 (3.94 g, 46.9 mmol) to adjust to pH=7.5. Then to the mixture was added a solution of 5,5,5-trifluoro-4,4-dimethyl-3-oxopentanenitrile (4 g, 22.33 mmol) in MeOH (25 mL). The mixture was stirred at 65° C. for 15 h. After cooled, the mixture was acified with conc. HCl to pH=1.0 and then refluxed for 2 h. After cooling, the mixture was neutralized by 4 mol/L NaOH to pH=8.0. The mixture was extracted with DCM/MeOH (10:1). The organic layer was dried over Na2SO4, filtered and concentrated to yield a white solid of 5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-amine (2 g, 9.06 mmol, 40.6% yield): 1H NMR (400 MHz, CDCl3) δ 5.78 (s, 1H), 3.93 (s., 2H), 1.51 (s, 6H); ES-LCMS m/z 195 (M+1).

reactant | hydroxylamine, hydrochloride | 44.7 mmol, 3.10 g | Cl.NO
reactant | NaHCO3 | 46.9 mmol, 3.94 g | C(=O)(O)[O-].[Na+]
reactant | 5,5,5-trifluoro-4,4-dimethyl-3-oxopentanenitrile | 22.33 mmol, 4 g | FC(C(C(CC#N)=O)(C)C)(F)F | C7H8F3NO
reactant | HCl | Cl | ClH
reactant | NaOH | 4 mol/L | [OH-].[Na+]
solvent | H2O | 25 mL | O | H2O
solvent | MeOH | 25 mL | CO | CH4O
product | 5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-amine | 9.06 mmol, 2 g, 40.6% yield | FC(C(C)(C)C1=CC(=NO1)N)(F)F | C7H9F3N2O
